US07915263B2
(2) Synthesis of 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxylic acid
To a solution of 64.2 g of ethyl 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxylate in 200 ml of methanol and 200 ml of tetrahydrofuran was added 58 ml of 5 M aqueous sodium hydroxide solution, followed by stirring at room temperature overnight. The reaction mixture was neutralized with 5 M aqueous hydrochloride solution, followed by removal of the methanol and tetrahydrofuran in vacuo, and the resulting residue was extracted with ethyl acetate. The obtained ethyl acetate solution was washed with brine, dried over anhydrous magnesium sulfate and filtered. The filtrate was concentrated in vacuo to give the title compound.

reactant | ethyl 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxylate | 64.2 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCC(CC1)C(=O)OCC | C25H34O3Si
reactant | sodium hydroxide | 5 M, 58 ml | [OH-].[Na+]
reactant | hydrochloride | 5 M | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 4-((tert-butyl(diphenyl)silyl)oxy)cyclohexanecarboxylic acid | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OC1CCC(CC1)C(=O)O | C23H30O3Si
